US05599814
f. 5-Chloro-7-trifluoromethyl-2H-3,1-benzoxazine-2,4(1H)-dione
To a stirred solution of 2-amino-4-chloro-6-trifluoromethylbenzoic acid (0.53 g, 2.2 mM) in dry tetrahydrofuran (6 mL) under a nitrogen atmosphere was added bis(trichloromethyl)carbonate (0.218 g, 0.734 mM). The resulting solution was stirred at room temperature for 2 hr, poured into water and the resulting mixture extracted with ethyl acetate. The combined extracts were dried (MgSO4), filtered and concentrated to leave the title compound as a tan solid; MS(CI): 266 (M+H).

reactant | 2-amino-4-chloro-6-trifluoromethylbenzoic acid | 2.2 mM, 0.53 g | NC1=C(C(=O)O)C(=CC(=C1)Cl)C(F)(F)F | C8H5ClF3NO2
reactant | bis(trichloromethyl)carbonate | 0.734 mM, 0.218 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 5-Chloro-7-trifluoromethyl-2H-3,1-benzoxazine-2,4(1H)-dione | ClC1=CC(=CC2=C1C(OC(N2)=O)=O)C(F)(F)F | C9H3ClF3NO3
